US09029536B2
C) 10-Bromo-6,7,8,9-tetrahydropyrido[2,3-b]indolizine
To a solution of 6,7,8,9-tetrahydropyrido[2,3-b]indolizine (170 mg) in DMF (3 mL) was added NBS (193 mg) at 0° C. The mixture was stirred at 0° C. for 30 min. The mixture was added saturated NaHCO3 aqueous solution at 0° C. and extracted with AcOEt. The organic layer was separated, washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (217 mg).

reactant | 6,7,8,9-tetrahydropyrido[2,3-b]indolizine | 170 mg | N1=CC=CC2=C1C=C1CCCCN21 | C11H12N2
reactant | NBS | 193 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 10-Bromo-6,7,8,9-tetrahydropyrido[2,3-b]indolizine | 217 mg | BrC=1C2=C(N3CCCCC13)C=CC=N2 | C11H11BrN2
